US06831080B2
Preparation of (±)-1-(3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)ethylamine
Lithium aluminum hydride (2.28 g, 60 mmol) was carefully added to a suspension of (±)-6-(1-aminoethyl)-4H-benzo[1,4]oxazin-3-one, Preparation 11 (3.84 g, 20 mmol) in THF (80 mL) at −78° C. The reaction mixture was stirred while warming to room temperature, then under reflux for 4 hours. The reaction mixture was then cooled to −78° C. and was quenched with water (2.3 mL), sodium hydroxide (10N) (2.3 mL), and water (4.6 mL). The resulting mixture was filtered and the resultant filtrate was concentrated in vacuo. The residual material was extracted with CH2Cl2 (3×50 mL). The combined organic layers were dried over sodium sulfate, filtered and the resultant filtrate was concentrated in vacuo to provide the title compound (3.38 g, 95%) as an oil.

reactant | Lithium aluminum hydride | 60 mmol, 2.28 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (±)-6-(1-aminoethyl)-4H-benzo[1,4]oxazin-3-one | NC(C)C=1C=CC2=C(NC(CO2)=O)C1 | C10H12N2O2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | (±)-1-(3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)ethylamine | 3.38 g, 95% | O1CCNC2=C1C=CC(=C2)C(C)N | C10H14N2O
